US04451471
5.75 g of 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylsulphinyl]-acetaldehyde-dimethylacetal are dissolved in 5 ml of acetic acid. Then, while stirring, 30 ml of a mixture of 2 parts acetic acid, 1 part sulphuric acid and 1 part water are added dropwise over a period of 5 minutes. The mixture is stirred at room temperature for 30 minutes, diluted with 100 ml of methylene chloride and poured into 200 ml of ice-water. The organic layer is removed and washed with 200 ml of ice-water. The aqueous phase is extracted by shaking three times with 50 ml of methylene chloride each time. The organic phases are combined, dried over magnesium sulphate and concentrated to dryness by evaporation. The crude product is dissolved in 200 ml of methylene chloride and stirred with 5 g of silica gel. The mixture is filtered, concentrated to dryness by evaporation and dried under reduced pressure. 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylsulphinyl]-acetaldehyde is obtained in the form of a highly viscous oil, IR-spectrum: νC=O =1720 cm-1, νS=O =1080 cm-1 (CCl4).

reactant | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylsulphinyl]-acetaldehyde-dimethylacetal | 5.75 g | COC(CS(=O)C=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)OC | C21H23NO5S2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylsulphinyl]-acetaldehyde | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)S(=O)CC=O | C19H17NO4S2
